US07307090B2
4-(3,4-Dichlorophenoxy)-[1,4′-bipiperidine]-1′-sulfonamide
4-(3,4-Dichlorophenoxy)-1,4′-bipiperidine (5 g, 0.0152 mol) and sulfamide (1.45 g, 0.0152 mol) were stirred together in dioxan (150 ml) at reflux for 24 hours. The resulting mixture was cooled to ambient temperature, evaporated to dryness and the residue was triturated with ether to give the title compound as a tan solid (5 g; MS APCI 409/411 (M+H)).

reactant | 4-(3,4-Dichlorophenoxy)-1,4′-bipiperidine | 0.0152 mol, 5 g | ClC=1C=C(OC2CCN(CC2)C2CCNCC2)C=CC1Cl | C16H22Cl2N2O
reactant | sulfamide | 0.0152 mol, 1.45 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 4-(3,4-Dichlorophenoxy)-[1,4′-bipiperidine]-1′-sulfonamide | 5 g | ClC=1C=C(OC2CCN(CC2)C2CCN(CC2)S(=O)(=O)N)C=CC1Cl | C16H23Cl2N3O3S
